data/mechanisms/records/IMS9-EQ9.35c.json
{"mechanism_id": "IMS9-EQ9.35c", "species": [{"species_id": "sec_butyl_acetate_molecular_ion_ester_o_localized", "mapped_smiles": "[CH3:1][C:2](=[O:3])[O+:4][CH:5]([CH3:6])[CH2:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetoxy_ethylidene_cation_mz87", "mapped_smiles": "[CH3:1][C:2](=[O:3])[O+:4]=[CH:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:7][CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["sec_butyl_acetate_molecular_ion_ester_o_localized"]}, {"state_id": "state_mz87", "species_ids": ["acetoxy_ethylidene_cation_mz87", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_ester_o_initiated", "from_state": "state_precursor", "to_state": "state_mz87", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ester_o_initiated", "support_type": "textbook_proposed", "locator": {"page": 256, "equation": "9.35", "figure": null, "panel": null, "section": "9.4 Esters (row 3, arrow labelled 'alpha(C-O)')"}, "confidence": 0.75, "curator_note": "Row 3. Radical-site cleavage initiated at the SATURATED ester oxygen -- the prose's 'an additional alpha-cleavage reaction initiated by the saturated oxygen atom; a similar cleavage with loss of the largest group produces the significant m/z 87 peak'. The bond that breaks is therefore the methine-to-ethyl bond C5-C7 (loss of the LARGEST group, C2H5., 29.0391), and the ion is the oxocarbenium the page draws as CH3C(=O)O(+)=CHCH3 and labels 'm/z 87' -- printed WITHOUT parentheses, i.e. one of the strong channels, and Figure 9.12 marks its peak '87a'. Encoded as the canonical triple with the radical site on map 4. NB this record and IMS9-EQ9.35d store the molecular ion with the charge and odd electron on the ESTER oxygen while IMS9-EQ9.35a/b store them on the carbonyl oxygen: the page draws them delocalised on a bracket and the labels choose. ARC COUNT (convention D): ZERO curved arrows anywhere in equation 9.35 -- five reaction arrows, each carrying only a reaction-type label, and no fishhook or two-electron arc on any structure. So EVERY electron move in every record of this equation is curator-supplied, and each is the canonical triple for its reaction type. *** THE PARENTHESISED GROUP IN THE LABEL NAMES THE INITIATING SITE, NOT THE BOND THAT BREAKS. *** This is the one thing an author could get badly wrong here, and the book defines it in its own words on this page: 'Alpha cleavage (Equation 9.35) AT the carbonyl group yields the large m/z 43 ion'; 'This latter peak actually can also be produced by an additional alpha-cleavage reaction INITIATED BY the saturated oxygen atom; a similar cleavage with loss of the largest group produces the significant m/z 87 peak'; and 'Charge-site initiation AT the saturated oxygen, RCOO-R'+. -> RCOO. + R'+'. So alpha(C=O) = initiated at the carbonyl, alpha(C-O) = initiated at the saturated oxygen, i(C-O) = charge-site initiation there. Which bond actually breaks is fixed by the PRINTED PRODUCT in each row, and every one of the five is independently confirmed by mass arithmetic (each ion plus its implied neutral sums to 116.0832) and by the squiggle-marked inset of Figure 9.12 on the facing page, which writes 43, 87 and 101 across the corresponding bonds. SUBSTRATE: sec-butyl acetate, CH3-C(=O)-O-CH(CH3)-C2H5, drawn out with a BRACKET carrying '+.' at its top right and labelled 'm/z 116'. Named on the facing page (PDF 266, printed p255): 'Figure 9.12. Mass spectrum of sec-butyl acetate' and 'The spectrum of sec-butyl acetate (Figure 9.12) illustrates the additional reactions that are possible with such esters.' Same compound as IMS9-EQ9.34, and the atom maps are deliberately the same: 1 = the acetyl methyl, 2 = the acetyl carbon, 3 = the carbonyl oxygen, 4 = the ester (saturated) oxygen, 5 = the methine carbon, 6 = its methyl, 7 = the CH2, 8 = the terminal methyl. *** THE CHARGE AND ODD ELECTRON ARE DRAWN DELOCALISED, SO EACH RECORD LOCALISES THEM WHERE ITS OWN LABEL SAYS. *** The page prints '+.' outside a bracket around the whole structure -- it is NOT on any atom -- so a localization has to be chosen to write a mapped SMILES at all. The reaction-type labels are what choose it: the alpha(C=O) channels put the radical site on the CARBONYL oxygen (map 3) and the alpha(C-O) and i(C-O) channels put it on the SATURATED ester oxygen (map 4). That is disclosed here rather than hidden: two records of this equation therefore store two different localizations of the same drawn molecular ion. MEASUREMENTS (convention F): the page labels m/z 116, 43, 101, 73, 87, 101 and 57. Every one matches the exact mass computed from the structure encoded here (116.0832, 43.0178, 101.0597, 73.0648, 87.0441, 101.0597, 57.0699 -- RDKit ExactMolWt, formal charge already applied). No percentage is printed in the equation, so no relative_intensity is stored: the prose's numbers ('the values of [(M - CH3COO)+]/Sigma_ions are 1, 3, and 17%, respectively' for n-, sec- and tert-butyl acetate) are quoted here instead, and note they describe THREE compounds, only one of which is this substrate. *** TWO DIFFERENT IONS ON THIS PAGE ARE BOTH LABELLED m/z 101 *** -- the alkoxycarbonyl acylium +O#C-OC4H9 from the alpha(C=O) row (IMS9-EQ9.35b) and the acetoxy-propylidene oxocarbenium CH3C(=O)O(+)=CH-C2H5 from the alpha(C-O) row (IMS9-EQ9.35d). Both are C5H9O2+, 101.0597: isomers, indistinguishable by mass, and the prose says so explicitly ('This latter peak actually can also be produced by an additional alpha-cleavage reaction'). Disclosed in both records, the same way IMS9-EQ9.25 discloses its two different 'm/z 57' ions."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_116", "species_id": "sec_butyl_acetate_molecular_ion_ester_o_localized", "step_id": null, "observed_mz": 116.0832, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_87", "species_id": "acetoxy_ethylidene_cation_mz87", "step_id": "step_alpha_ester_o_initiated", "observed_mz": 87.0441, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
